US07732440B2
{2-[2-(10-Methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionylamino]thiazol-4-yl}acetic Acid
At room temperature and with stirring, 0.25 ml of 2M NaOH are added to a suspension of 25.0 mg of ethyl {2-[2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionylamino]thiazol-4-yl}acetate in 5 ml of tetrahydrofuran and 2 ml of water, and the mixture is stirred at room temperature for 12 hours. The reaction mixture is then neutralized by addition of 1M HCl. The solvents are removed under reduced pressure, and the residue is taken up in 20 ml of ethyl acetate and washed three times with in each case 10 ml of water. The organic phase is dried with MgSO4 and concentrated under reduced pressure. The residue is purified by RP-HPLC. This gives 22.5 mg of {2-[2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionylamino]thiazol-4-yl}acetic acid as a lyophilisate.

reactant | NaOH | 2M, 0.25 ml | [OH-].[Na+]
reactant | ethyl {2-[2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionylamino]thiazol-4-yl}acetate | 25.0 mg | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)C(C(=O)NC=1SC=C(N1)CC(=O)OCC)CC1CCOCC1)(=O)=O | C28H31N3O6S2
reactant | HCl | 1M | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | {2-[2-(10-Methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)-3-(tetrahydropyran-4-yl)propionylamino]thiazol-4-yl}acetic Acid | CN1C2=CC=CC=C2S(C=2C=CC(=CC12)C(C(=O)NC=1SC=C(N1)CC(=O)O)CC1CCOCC1)(=O)=O | C26H27N3O6S2
